US04206151
Treatment of the 9-oxo-11α,16-dihydroxy prostadien-1-ol or prostene of Table 8 below with acetic anhydride in pyridine followed by potassium acetate in methanol according to Example 83 furnishes the product 9-oxo-16-hydroxy-Δ10 prostadien-1-ol or prostatrien-1-ol of the table.

reactant | 9-oxo-11α,16-dihydroxy prostadien-1-ol | O=C1[C@H](CCCC=CC=CO)[C@H]([C@@H](C1)O)CCCC(CCCC)O | C20H34O4
reactant | prostene | C=CCCCCC[C@H]1CCC[C@@H]1CCCCCCCC | C20H38
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methanol | CO | CH4O
product | prostatrien-1-ol | C(=CC=CC=CC[C@H]1CCC[C@@H]1CCCCCCCC)O | C20H34O
